US07576072B2
Step C: Preparation of 6-bromo-7-fluoro-5-methyl-3H-imidazo[4.5-b]pyridine:
To a solution of 6-bromo-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine (1.00 equivalent) in NMP is added KF (3.00 equivalents) and 18-crown-6 (0.20 equivalents) at room temperature. The resulting mixture is refluxed with stirring for 16 hours. The reaction mixture is cooled to room temperature and diluted with EtOAc and water. The organic layer is washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product that is purified by flash column chromatography as necessary.

reactant | 6-bromo-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine | 1.00 equivalent | BrC=1C(=C2C(=NC1C)NC=N2)Cl | C7H5BrClN3
reactant | KF | 3.00 equivalents | [F-].[K+]
reactant | 18-crown-6 | 0.20 equivalents | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-bromo-7-fluoro-5-methyl-3H-imidazo[4.5-b]pyridine | BrC=1C(=C2C(=NC1C)NC=N2)F | C7H5BrFN3
